US08975265B2
Step 1: 5-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-6-yl}-3-methyl-pyrazole-1-carboxylic acid tert-butyl ester
A mixture of {1-[4-(6-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (50 mg) and 1-tert-butoxycarbonyl-3-methylpyrazole-5-boronic acid (44 mg) in dioxane (1 mL) and water (0.43 mL) was placed under argon and [1,1-bis-(diphenylphosphino)-ferrocene]-dichloropalladium-dichlormethane-complex (7.9 mg) added. The mixture was heated at 110° C. under microwave irradiation for 60 minutes. On cooling the mixture was partitioned between DCM and water and extracted. The organic portion was dried and concentrated in vacuo to give the crude title compound which was used in the next step without further purification.

reactant | {1-[4-(6-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | 1-tert-butoxycarbonyl-3-methylpyrazole-5-boronic acid | 44 mg | C(C)(C)(C)OC(=O)N1N=C(C=C1B(O)O)C | C9H15BN2O4
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.43 mL | O | H2O
product | 5-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-6-yl}-3-methyl-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1C=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2)C | C37H41N5O4
